US06492403B1
To 1.0 g (3.7 mmol) of methyl 4-bromo-5-methylthiothiophene-2-carboxylate (as prepared in Example 241, step (a) dissolved in 25 ml of MeOH was added 450 mg of NaOH dissolved in 10 ml of H2O. The reaction was stirred for 5 hours at room temperature, and then the solvents were removed under vacuum. The residue of the reaction was extracted with ethyl acetate (2×50 mL) and 1N HCl. The organic layer was collected, dried (Na2SO4), filtered and concentrated under vacuum to yield 833 mg (89%) of 4-bromo-5-methylthiothiophene-2-carboxylic acid as a white solid.

reactant | methyl 4-bromo-5-methylthiothiophene-2-carboxylate | 3.7 mmol, 1.0 g | BrC=1C=C(SC1C)C(=S)OC | C7H7BrOS2
reactant | NaOH | 450 mg | [OH-].[Na+]
solvent | MeOH | 25 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 4-bromo-5-methylthiothiophene-2-carboxylic acid | 833 mg, 89% | BrC=1C=C(SC1C)C(=S)O | C6H5BrOS2
